US05587379
Under a nitrogen atmosphere, a solution of 5.0 grams (0.027 mole) of undecanoic acid in 75 mL of methylene chloride was stirred and 2.8 ml (0.032 mole) of oxalyl chloride and 5 drops of N,N-dimethylformamide were added. Upon completion of addition, the reaction mixture was stirred for about 16 hours, then it was concentrated under reduced pressure, yielding 2.2 grams of undecanoyl chloride.

reactant | undecanoic acid | 0.027 mole, 5.0 grams | C(CCCCCCCCCC)(=O)O | C11H22O2
reactant | oxalyl chloride | 0.032 mole, 2.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
product | undecanoyl chloride | 2.2 grams | C(CCCCCCCCCC)(=O)Cl | C11H21ClO
